US04399131
Stages 4 and 5: 35.2 g (0.13 mole) of ethyl 2-(2-aminothiazol-4-yl)-2-n-butoxyimino-acetate are tritylated with 44.6 g (0.155 mole) of trityl chloride (97% pure) analogously to Example 4, stage 4, and the product is split, without further purification, as described in Example 4, stage 5, to give 37 g of 2-n-butoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid.

reactant | ethyl 2-(2-aminothiazol-4-yl)-2-n-butoxyimino-acetate | 0.13 mole, 35.2 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCCC | C11H17N3O3S
reactant | trityl chloride | 0.155 mole, 44.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
product | 2-n-butoxyimino-2-(2-tritylaminothiazol-4-yl)-acetic acid | 37 g | C(CCC)ON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H27N3O3S
